US07265149B2
In analogy to the procedure described for example 1 f], {4-methyl-6-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain {4-methyl-6-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as colorless solid.

reactant | {4-methyl-6-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=C(C=C(C=C12)OCC=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)C)C)=O | C27H28F3N3O4
reactant | LiOH | [Li+].[OH-]
product | {4-methyl-6-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | CC1=C2C=CN(C2=CC(=C1)OCC=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)C)CC(=O)O | C23H20F3N3O4
